US08614328B2
To a stirred suspension of 3-hydroxyphthalic acid dimethyl ester (0.5 g, 2.4 mmol), (3,5-dichloro-phenyl)-methanol (0.84 g, 4.8 mmol), and polymer-supported triphenyl phosphine (1.5 g, 4.8 mmol) in THF (30 mL) in ice-bath was slowly added diisopropyl azodicarboxylate (1.0 mL, 4.8 mmol) and stirred at r.t. overnight. The mixture was filtered and the solid was washed with ethyl acetate (10 mL). The filtrate was evaporated and the residue was purified by flash column chromatography (EtOAc/Hexane) to give 3-(3,5-dichloro-benzyloxy)-phthalic acid dimethyl ester (0.42 g, 48% yield). The product was used in the next step without further purification.

reactant | 3-hydroxyphthalic acid dimethyl ester | 2.4 mmol, 0.5 g | COC(C=1C(C(=O)OC)=C(C=CC1)O)=O | C10H10O5
reactant | (3,5-dichloro-phenyl)-methanol | 4.8 mmol, 0.84 g | ClC=1C=C(C=C(C1)Cl)CO | C7H6Cl2O
reactant | triphenyl phosphine | 4.8 mmol, 1.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 4.8 mmol, 1.0 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(3,5-dichloro-benzyloxy)-phthalic acid dimethyl ester | 0.42 g, 48% yield | COC(C=1C(C(=O)OC)=C(C=CC1)OCC1=CC(=CC(=C1)Cl)Cl)=O | C17H14Cl2O5
